Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Aspirin / Codeine
 
Attending: ___.
 
Chief Complaint:
 Abdominal Pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
This is a ___ with history of multiple abdominal surgeries, 
PUD, DM who presents with abdominal pain. Patient reports that 
since her last discharge she has had a throbbing pain in her 
abdomen which she states she "knows is from her stomach." States 
that pain was tolerable while on dilaudid at home. She notes 
that her pain began getting uncomfortable while she ran out of 
dilaudid. Of note, per PCP note, patient ran out earlier than 
expected. She reports taking tylenol and tramadol for pain and 
while pain was initially tolerable, it became increasingly more 
intense. 

On the ___ prior to admission, patient states pain became 
more intense. She denies any inciting event. Denies fevers, 
nasuea, vomiting, diarrhea, or changes in bowel habits. Recently 
travelled to ___ and ___ ___ weeks ago. No sick 
contacts. No exotic food exposures. Pain continued and became 
"uncontrollable" so she presented to the ED for evaluation.

She describes the pain has constant left mid abdominal pain with 
intermittent episodes of sharp stabbing pain that is non 
radiating. Reports having "hunger pains" that are different than 
this. Her "hunger pains" are relieved by food but does not 
effect the other abdominal pain. Last BM was yesterday and was 
normal.

In the ED, initial vitals: 10 98.4 100 120/96 18 100%ra. 
Evaluation was significant for Hct of 43.0 but otherwise 
unremarkable labs. Patient received dilaudid 1mg IV x 3. GI was 
consulted given history of abnormal MRCP who recommended 
possible advanced endoscopy if clinically indicated. Patient was 
then admitted for further management of pain control. VS prior 
to transfer: 71 127/92 13 100%RA.

Currently, patient writhing in pain in bed, stating that she 
"wants to figure out what is going." She is easily distracted by 
her pain however. 
  
ROS: per HPI, denies fever, chills, night sweats, headache, 
vision changes, rhinorrhea, congestion, sore throat, cough, 
shortness of breath, chest pain, constipation, BRBPR, melena, 
hematochezia, dysuria, hematuria.  
 
Past Medical History:
-hypertension 
-asthma 
-peptic ulcer disease 
-DJD 
-non-insulin dependent diabetes mellitus 
-gastric bypass 
-cholecystectomy

PSurgHx:
-___- gastric bypass.
-7 surgeries on the abdomen. "stomach leak" hernia, 2 SBOs,
reverse of the gastric bypass, the most recent surgery was in
___
.
 
Social History:
___
Family History:
-Mother: insulin dependent DM, DJD, htn- ___
-Father: healthy - ___
-Uncle/Cousin/ Aunt: colon ca, breast ca
-MGM: seizures-___ deceased
-MGF: heart ___ deceased
-PGM: ?edema - elderly deceased
-PGF: deceased in war
-Siblings: healthy
-Children: dtr has DM, she is ___, she was dx at age ___ with T1DM
but she is obese.
 
Physical Exam:
Admission Labs:
VS: 97.6 152/92 79 18 100 RA
GENERAL - uncomfortable, teary eyed  
HEENT - NC/AT, PERRLA, EOMI, sclerae anicteric, MMM, OP clear  
NECK - supple, no thyromegaly, no JVD
HEART - PMI non-displaced, RRR, nl S1-S2, no MRG
LUNGS - CTAB, no r/rh/wh, good air movement, resp unlabored, no 
accessory muscle use  
ABDOMEN - soft, multiple abdominal scars present, +BS, no HSM, 
TTP in mid abdomen.  
EXTREMITIES - WWP, no c/c/e, 2+ peripheral pulses (radials, DPs) 
 
SKIN - no rashes or lesions
NEURO - awake, A&Ox3, CNs II-XII grossly intact, muscle strength 
___ throughout, sensation grossly intact throughout, DTRs 2+ and 
symmetric, cerebellar exam intact, steady gait  

Discharge Labs:
VS: 98.1 100/65 72 16 100%RA 
GENERAL - teary eyed  
ABDOMEN - soft, multiple abdominal scars present, +BS, no HSM 
mild tenderness
 
Pertinent Results:
Admission Labs:
___ 09:20AM BLOOD WBC-4.2 RBC-4.08*# Hgb-13.2# Hct-43.0# 
MCV-105* MCH-32.3* MCHC-30.7* RDW-15.9* Plt ___
___ 09:20AM BLOOD Neuts-70.3* ___ Monos-4.7 Eos-0.5 
Baso-0.7
___ 09:20AM BLOOD Glucose-89 UreaN-9 Creat-0.8 Na-135 K-3.7 
Cl-100 HCO3-24 AnGap-15
___ 09:20AM BLOOD ALT-12 AST-12 AlkPhos-84 TotBili-0.3
___ 09:20AM BLOOD Albumin-3.3*

Discharge Labs
___ 06:25AM BLOOD WBC-4.3 RBC-3.17* Hgb-10.3* Hct-32.4* 
MCV-102* MCH-32.4* MCHC-31.7 RDW-15.7* Plt ___
___ 12:57PM BLOOD Lactate-1.3

Other Notable Labs
___ 09:20AM BLOOD ASA-NEG Acetmnp-5* Bnzodzp-NEG 
Barbitr-NEG Tricycl-NEG
___ 08:34PM URINE bnzodzp-POS barbitr-NEG opiates-POS 
cocaine-NEG amphetm-NEG mthdone-POS

Micro:

___:20 am SEROLOGY/BLOOD      CHEM S# ___. 

                            **FINAL REPORT ___

   HELICOBACTER PYLORI ANTIBODY TEST (Final ___: 
      EQUIVOCAL BY EIA. 
           (Reference Range-Negative). 

___ KUB:
 Nonobstructive bowel gas pattern.
.
 
Brief Hospital Course:
HOSPITALIZATION COURSE:
___ with history of multiple abdominal surgeries, PUD, DM who 
presented with abdominal pain of unclear etiology.
  
ACTIVE ISSUES:
- Abdominal Pain: Patient presented with similar abdominal pain 
as she had in prior admissions. During this admission, she was 
able to tolerate PO intake without any difficulty. Her bowel 
movements did not show any blood and there was no reported 
emesis. Labs did not show any frank abnormalities to point to an 
etiology. 
Given history of PUD, h.pylori was sent and was equivocal. 
Decision was made not to treat. Attempts were made to obtain 
prior ___ records however they were not sent. During last 
admission, patient had CT/MRCP which showed dilatation main 
pancreatic duct and biliary tree to the ampulla without 
underlying mass identified. She was to have an ERCP as an 
outpatient however failed to schedule an appointment. ERCP was 
contacted however they deferred procedure to outpatient. Upon 
receiving narcotics, patient would frequently be found 
somnolent. Additionally, urine tox screen was positive for 
methadone. Upon discussion with patient, she denied use. 
Attempts to try alternative therapy was met with resistance. 
Lastly, patient's daughter was very concerned that patient was 
displaying drug seeking behavior. Daughter provided multiple 
letters from prior providers (at ___ who terminated patient 
because such behavior (see scanned record for copies of 
letters). Given this evidence, it was decided to pursue 
alternative measures for pain control. Narcotics were 
discontinued. A joint meeting with outpatient provider (Dr. 
___ was held with patient during time it was made clear 
that no further narcotics were to going to be prescribed. USE OF 
NARCOTICS SHOULD BE USED WITH EXTREME CAUTION GIVEN THIS 
BEHAVIOR. Patient was discharged with dicyclomine, tramadol and 
simethicone. She was also asked to make an appointment with a 
psychiatrist as it was felt that depression was playing a large 
role with her chronic pain. 

# Anxiety/Psychiatric Issues: Patient provided a list of 
medications. However upon discussion with daughter, it was made 
evident that patient also had history of abuse with 
benzodiazepines. Pharmacy was contacted and provided collateral 
information on some medications but not all. After discussion 
with PCP (Dr. ___, decision was made to discharge patient 
with doxepin and seroquel. Clonazepam prescription was given as 
a taper as PCP was not going to refill medication. 

TRANSITIONAL ISSUES:
[ ] Would avoid narcotics for pain control
[ ] Patient needs close psychiatry follow up.
[ ] Patient needs follow up with ERCP to investigate pancreatic 
duct dilatation
[ ] Patient needs further work-up for anemia.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Citalopram 40 mg PO DAILY 
2. Clonazepam 2 mg PO TID 
hold for sedation or rr < 10 
3. Doxepin HCl 75 mg PO HS 
4. Quetiapine Fumarate 300 mg PO QAM 
5. Quetiapine Fumarate 400 mg PO HS 
6. Sucralfate 1 gm PO QID 
7. Ascorbic Acid ___ mg PO BID 
8. FoLIC Acid 1 mg PO DAILY 
9. Vitamin D 400 UNIT PO DAILY 
10. Ondansetron 4 mg PO Q8H:PRN nausea 
11. Docusate Sodium 100 mg PO BID 
12. Senna 1 TAB PO BID 
13. Omeprazole 20 mg PO BID 
14. TraMADOL (Ultram) 75 mg PO Frequency is Unknown 

 
Discharge Medications:
1. Ascorbic Acid ___ mg PO BID 
2. Docusate Sodium 100 mg PO BID 
3. Doxepin HCl 75 mg PO HS 
4. Clonazepam 2 mg PO TID 
hold for sedation or rr < 10 
RX *clonazepam 2 mg 1 tablet(s) by mouth tapered Disp #*7 Tablet 
Refills:*0
5. FoLIC Acid 1 mg PO DAILY 
6. Omeprazole 20 mg PO BID 
7. Ondansetron 4 mg PO Q8H:PRN nausea 
8. TraMADOL (Ultram) 75 mg PO Q4H:PRN pain 
RX *tramadol 50 mg 1.5 tablet(s) by mouth every four (4) hours 
Disp #*30 Tablet Refills:*0
9. Vitamin D 400 UNIT PO DAILY 
10. Sucralfate 1 gm PO QID 
11. Senna 1 TAB PO BID 
12. Quetiapine Fumarate 200 mg PO HS 
RX *quetiapine 200 mg 1 tablet(s) by mouth hs Disp #*7 Tablet 
Refills:*0
13. Quetiapine Fumarate 100 mg PO QAM 
RX *quetiapine 100 mg 1 tablet(s) by mouth qam Disp #*1 Tablet 
Refills:*0
14. DiCYCLOmine 20 mg PO QID 
RX *dicyclomine 20 mg 1 tablet by mouth four times a day Disp 
#*40 Tablet Refills:*0
15. Gabapentin 100 mg PO Q8H 
RX *gabapentin 100 mg 1 capsule(s) by mouth three times a day 
Disp #*21 Capsule Refills:*0
16. Simethicone 40-80 mg PO QID:PRN gas pain 
RX *simethicone 80 mg 1 tablet by mouth four times a day Disp 
#*20 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Abdominal Pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were seen in the hospital because you were having abdominal 
pain. Your work-up did not show any acute process going on. We 
are concerned that you have a functional bowel issue that does 
not requires of the use of narcotics. As such we are giving you 
medications that will help with intestinal spasms. We had a 
discussion with your primary care physician who agrees with 
 
Followup Instructions:
___